US05019577
(b) Preparation of Diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamate
Both diethyl N-(4-amino-3-methylbenzoyl)-(L)-glutamate (2.18 g, 6.49 mmoles) and 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde (2.00 g, 6.49 mmoles) were stirred in absolute ethanol (50 mL) under nitrogen while glacial acetic acid (3 mL) was added dropwise during 1 minute. After solution was achieved (1 hour), activated 3 Å molecular sieves (10 mL) were added and stirring was continued 5 hours. The reaction mixture was chilled (ice bath) and sodium cyanoborohydride (408 mg, 6.49 mmoles) added in one portion. After stirring cold 0.5 hour, the bath was removed and the reaction mixture allowed to warm to ambient temperature. The solids were filtered and rinsed with ethanol (100 mL) after 16 hours. The filtrate was spin evaporated to a residue that was partitioned between ethyl acetate and water (100 mL each). The organic phase was separated, washed (1×100 mL 1:1 water/brine), dried (MgSO4), filtered, and spin evaporated to a small volume (15 mL). The solution was chromatographed on silica gel (175 g) using an ethyl acetate rinse (450 mL) followed by elution of the product with 5% added methanol. Like fractions were combined by spin evaporation and dried to give a clear semi-solid; yield, 1.45 g (36%); 1H-NMR (DMSO-d 6) δ 1.15 and 1.16 (2t overlapped, 6H), 1.66 (m, 2H), 2.00 (m, 2H), 2.08 (s, 3H), 2.11 (s, 3H), 2.19 (s, 6H), 2.29 (m, 2H), 2.39 (t, 2H), 3.11 (m, 2H), 3.9-4.1 (2q overlapped, 4H), 4.33 (m, 1H), 5.46 (m, 1H), 6.47 (d, Jo=8 Hz, 1H), 7.53 (s, 1H), 7.57 (d, Jo=8 Hz, 1H), 8.20 (d, 1H), 11.8 (v br s, 1H); uv (MeOH) 301 nm max (31000), 258 min (6050); mass spec (FAB) m/e 628 (8%), 426 (100), 384 (95).

reactant | diethyl N-(4-amino-3-methylbenzoyl)-(L)-glutamate | 6.49 mmoles, 2.18 g | NC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)C | C17H24N2O5
reactant | 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde | 6.49 mmoles, 2.00 g | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCC=O)=O | C13H16N4O5
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 6.49 mmoles, 408 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | MeOH | CO | CH4O
product | Diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamate | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)C)=O | C30H40N6O9
